US07435731B2
Step 6: Preparation of 6-(2,4-difluorophenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1,4-dihydro-pyrazolo[4,3-b]pyridin-5-one
To a solution of 2-(2,4-difluorophenoxy)-3-hydroxy-3-[4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]propionic acid methyl ester (125 mg, 0.264 mmol) in ethanol (2 mL) and water (1 mL) was added ammonium chloride (74 mg, 5.2 eq) followed by iron powder (Fisher Brand, Electrolytic). The resulting mixture was stirred at room temperature for 45 minutes, refluxed overnight, cooled to room temperature, diluted with ethanol, and filtered through a 3 cm bed of celite with additional ethanol. The filtrate was concentrated, and the residue was diluted with ethyl acetate (80 mL) and water (40 mL). The organic layer was separated, washed with water (2×40 mL) and brine (1×40 mL), dried over magnesium sulfate, filtered and concentrated to give the title compound as a thick tan oil (98 mg, (M+H)+=394).

reactant | 2-(2,4-difluorophenoxy)-3-hydroxy-3-[4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]propionic acid methyl ester | 0.264 mmol, 125 mg | COC(C(C(C=1N(N=CC1[N+](=O)[O-])COCC[Si](C)(C)C)O)OC1=C(C=C(C=C1)F)F)=O | C19H25F2N3O7Si
reactant | ammonium chloride | 74 mg, 5.2 eq | [Cl-].[NH4+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 1 mL | O | H2O
catalyst | iron | [Fe] | Fe
product | 6-(2,4-difluorophenoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1,4-dihydro-pyrazolo[4,3-b]pyridin-5-one | 98 mg | FC1=C(OC2=CC3=C(NC2=O)C=NN3COCC[Si](C)(C)C)C=CC(=C1)F | C18H21F2N3O3Si
